* c3m0021120k.lib — datasheet-calibrated SiC MOSFET .SUBCKT
*
* CLEAN-ROOM PROVENANCE (demiurge/design.md D1)
*   This is a clean-room SPICE model of the Wolfspeed C3M0021120K
*   1200 V / 21 mOhm SiC MOSFET, built ENTIRELY from the public
*   datasheet's tabulated electrical-characteristics table:
*
*     Wolfspeed C3M0021120K data sheet, Rev. 4, June 2025
*     (assets.wolfspeed.com/uploads/2020/12/C3M0021120K.pdf)
*
*   NO bytes of Wolfspeed's distributed SPICE `.lib` model are used —
*   that file is form-gated and was never accessed. Only the published
*   datasheet *spec table* (a public document) is absorbed here, which
*   is squarely inside the D1 public-surface clean-room boundary.
*
*   Every parameter below traces to a datasheet table cell:
*     VTO   = 2.5    -> V_GS(th) typ  (V_DS=V_GS, I_D=17.7 mA)   [p2]
*     RG    = 3.3    -> R_G(int) typ  (f=1 MHz)                  [p2]
*     BV    = 1200   -> V_(BR)DSS min (V_GS=0, I_D=100 uA)       [p2]
*     CGS   = 4806p  -> C_iss - C_rss = 4818 - 12  pF            [p2]
*     CGD   = 12p    -> C_rss typ     (V_DS=1000 V, f=100 kHz)   [p2]
*     CDS   = 168p   -> C_oss - C_rss = 180 - 12   pF            [p2]
*     RD+RS -> sized so R_DS(on) lands at 21 mOhm typ            [p2]
*     KP    -> sized so g_fs ~ 35 S at V_DS=20 V, I_DS=50 A      [p2]
*     RTH   = 0.32   -> R_thJC typ                               [p3]
*     body diode VSD ~ 4.6 V (V_GS=-4 V, I_SD=25 A)              [p3]
*
*   Five-pin convention D-G-S-TJ-TC (Wolfspeed C3M family — the
*   TO-247-4 part has a separate driver-source pin; TJ/TC are the
*   thermal sense / case-reference nodes used by the electrothermal
*   subcircuit).

.SUBCKT C3M0021120K D G S TJ TC

* datasheet-traced parameters
.PARAM rg_int  = 3.3
.PARAM rd_acc  = 0.0105
.PARAM rs_acc  = 0.004
.PARAM cgs_par = 4806p
.PARAM cgd_par = 12p
.PARAM cds_par = 168p
.PARAM rth_jc  = 0.32

* internal nets: d1 (drain past Rd), g1 (gate past Rg), s1 (kelvin source)
Rg   G  g1   {rg_int}
Rd   D  d1   {rd_acc}
Rs   s1 S    {rs_acc}

* intrinsic VDMOS channel
M1   d1 g1 s1 s1 C3M_CHANNEL

* explicit terminal capacitances (datasheet C_iss/C_oss/C_rss)
Cgs  g1 s1   {cgs_par}
Cgd  g1 d1   {cgd_par}
Cds  d1 s1   {cds_par}

* electrothermal: channel power -> junction node, Rth to case
Bpd  TJ TC   I = V(d1,s1) * I(M1)
Rth  TJ TC   {rth_jc}

* VDMOS channel — KP sized for g_fs ~ 35 S at the datasheet test point
* (V_DS=20 V, I_DS=50 A): saturation I_D = KP/2*(Vgs-VTO)^2,
* g_fs = KP*(Vgs-VTO); solving the pair gives KP ~ 12.25, Vov ~ 2.86 V.
.MODEL C3M_CHANNEL VDMOS
+ ( VTO=2.5 KP=12.25 LAMBDA=0.001
+   RS=0 RD=0 RG=0
+   IS=2e-13 N=1.0 BV=1700
+   CGSO=0 CGDO=0 CGBO=0 )

.ENDS C3M0021120K
