* sample_sic_mosfet.lib — hand-written synthetic SiC MOSFET .SUBCKT
*
* CLEAN-ROOM PROVENANCE (demiurge/design.md D1)
*   This fixture is derived ENTIRELY from the public Wolfspeed
*   C3M0021120K datasheet's described topology (D-G-S-TJ-TC five-pin
*   convention, internal gate resistor, package inductances Ld/Ls,
*   intrinsic VDMOS channel, temperature pin Tj for self-heating
*   feedback). Parameter VALUES are nominal placeholder estimates
*   sized to typical 1200 V / 250 A planar SiC MOSFET ranges from
*   widely published research literature (Lutz, Schlangenotto, Scheuermann,
*   De Doncker "Semiconductor Power Devices" 2nd ed. 2018; Baliga
*   "Fundamentals of Power Semiconductor Devices" 2nd ed. 2019).
*   NO `.lib` text is copied from any vendor distribution.
*
*   This file exists solely so the κ-39 parser selftest has a
*   structurally faithful SPICE input to round-trip against — not as a
*   physically calibrated device model. `wolfspeed_parse_lib` MUST
*   succeed; absorption (κ-39 §8 GREEN) requires a real datasheet
*   parity check against measured values, deferred.
*
* Five-pin convention: D = drain, G = gate, S = source,
*                      TJ = junction-temperature sense node,
*                      TC = case-temperature reference node.

.SUBCKT SAMPLE_SIC_1200V_250A D G S TJ TC

* Internal nets:
*   d1 = drain after package inductance Ld
*   g1 = gate after internal gate resistor + package inductance Lg
*   s1 = source after package inductance Ls
*   t1 = thermal node (junction) — current-into-T1 == power dissipation

.PARAM rg_int = 1.8
.PARAM ld_pkg = 5n
.PARAM ls_pkg = 8n
.PARAM lg_pkg = 12n
.PARAM cds_par = 220p
.PARAM rth_jc = 0.24

* Package parasitics
Ld   D  d1   {ld_pkg}
Ls   s1 S    {ls_pkg}
Lg   G  g1a  {lg_pkg}
Rgi  g1a g1  {rg_int}

* Output capacitance (Coss) lumped
Cds  d1 s1   {cds_par}

* Intrinsic VDMOS channel (NMOS, Vto > 0)
M1   d1 g1 s1 s1 SIC_NMOS_INTRINSIC

* Body diode is implicit in the VDMOS model card; for selftest we keep
* it inside the .MODEL definition rather than as a separate D card.

* Thermal coupling: behavioral source pushes channel power into the
* junction thermal node; Rth_jc connects to case.
Bpd  TJ TC I = V(d1,s1) * I(M1)
Rth  TJ TC {rth_jc}
* (For selftest, the actual electrothermal coupling fidelity does not
*  matter — the parser must round-trip the cards.)

.MODEL SIC_NMOS_INTRINSIC VDMOS
+ ( LEVEL=1 VTO=3.2 KP=12 LAMBDA=0.002
+   RS=0.004 RD=0.011 CGSO=2.1n CGDO=0.045n CGBO=0
+   IS=1e-14 N=1.05 BV=1700 IBV=1m
+   MTRIQS=1 KSUBTHRES=0.18
+ )

.ENDS SAMPLE_SIC_1200V_250A
